US06737554B2
DE-OS-24 53 529 describes the production of dinitronaphthalenes by nitration of naphthalene or 1-nitronaphthalene with nitric acid in an organic solvent, e.g., dichloroethane, with the azeotropic removal of the water of reaction. This process yields dinitronaphthalene in high yields, but without influencing the isomer ratio.

reactant | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | 1-nitronaphthalene | [N+](=O)([O-])C1=CC=CC2=CC=CC=C12 | C10H7NO2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
product | dinitronaphthalene | [N+](=O)([O-])C1=C(C2=CC=CC=C2C=C1)[N+](=O)[O-] | C10H6N2O4
